US08258144B2
N2-(1H-indazol-6-yl)-N4-(3-morpholinopropyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
A mixture of 2-chloro-N-(3-morpholinopropyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (65 mg, 0.22 mmol), 6-aminoindazole (80 mg, 0.60 mmol) and trimethylsilyl chloride (0.100 mL, 0.72 mmol) in nBuOH (3 mL) was heated at 116° C. overnight. It was then purified by HPLC to give the titled compound (16 mg). MS 393.5 (M+H); UV 217.9, 239.1, 309.1 nm.

reactant | 2-chloro-N-(3-morpholinopropyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.22 mmol, 65 mg | ClC=1N=C(C2=C(N1)NC=C2)NCCCN2CCOCC2 | C13H18ClN5O
reactant | 6-aminoindazole | 0.60 mmol, 80 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | trimethylsilyl chloride | 0.72 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
product | N2-(1H-indazol-6-yl)-N4-(3-morpholinopropyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 16 mg | N1N=CC2=CC=C(C=C12)NC=1N=C(C2=C(N1)NC=C2)NCCCN2CCOCC2 | C20H24N8O
